US03947409
A solution of 20.0 g. of 3α-acetoxy-16-methyl-16-pregnene-11,20-dione dissolved in 600 ml. of methanol, is cooled to 18°C., and 80 ml. of 30% hydrogen peroxide followed by 80 ml. of 2.5 N sodiim hydroxide are added. Considerable material precipitates from solution, but all redissolves on stirring the reaction mixture at 25°-30°C. for 40 minutes. The solution is kept at 15°-20°C. for 18 hours at which time the ultraviolet maximum at 249 has completely disappeared. Then 600 ml. of saturated salt water is slowly added, the crystalline precipitate is filtered, washed with water, and dried in air and in vacuum. The 16α,17α-epoxy-3α-hydroxy-16β-methyl-pregnane-11,20-dione thus formed weighs about 17 g.

reactant | 3α-acetoxy-16-methyl-16-pregnene-11,20-dione | C(C)(=O)O[C@H]1CC2CC[C@H]3[C@@H]4CC(=C(C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C)C | C24H34O4
reactant | hydrogen peroxide | OO | H2O2
reactant | hydroxide | 2.5 N | [OH-]
solvent | methanol | CO | CH4O
product | 16α,17α-epoxy-3α-hydroxy-16β-methyl-pregnane-11,20-dione | O1[C@]2([C@]1(C(C)=O)[C@]1(CC([C@@H]3[C@]4(CC[C@H](CC4CC[C@H]3[C@@H]1C2)O)C)=O)C)C | C22H32O4
